US04333928
According to 1(b) 5.4 g of 3-methoxy-16α-propyl-1,3,5(10)-estratrien17-one N,N-dimethylhydrazone, m.p. 83°-85° C., is obtained from 5.0 g of 3-methoxy-1,3,5(10)-estratrien-17-one N,N-dimethylhydrazone with 1-bromopropane after crystallization from acetonitrile. By reaction with CuCl2.2H2O according to 1(c) 4.1 g of 3-methoxy-16α-propyl-1,3,5(10)-estratrien-17-one, m.p. 98°-100° C. (from acetonitrile), is obtained from 5.0 g of hydrazone, and 3.2 g of the 17-ketone yields with sodium borohydride according to 1(d) 2.1 g of 3-methoxy-16α-propyl-1,3,5(10)-estratrien-17β-ol, m.p. 54°-56° C. (from acetonitrile). By Birch reduction, acid hydrolysis, reaction with pyridine hydrobromide perbromide, acetylation in the 17-position, ketalization and deketalization in the 3-position 17β-acetoxy-16α-propyl-5(10)-9(11)-estradien-3-one is obtained as an oil.

reactant | 3-methoxy-16α-propyl-1,3,5(10)-estratrien17-one N,N-dimethylhydrazone | CN(N=C1[C@]2(C)[C@@H](C[C@H]1CCC)[C@@H]1CCC=3C=C(C=CC3[C@H]1CC2)OC)C | C24H36N2O
reactant | 1-bromopropane | BrCCC | C3H7Br
product | 3-methoxy-1,3,5(10)-estratrien-17-one N,N-dimethylhydrazone | 5.0 g | CN(N=C1[C@]2(C)[C@@H](CC1)[C@@H]1CCC=3C=C(C=CC3[C@H]1CC2)OC)C | C21H30N2O
